US09422292B2
To a solution of 4-bromo-2-fluoro-1-nitrobenzene (792 mg, 3.6 mmol) in tetrahydrofuran (30 mL) was added ethyl 1-(aminomethyl)cyclopropanecarboxylate (441 mg, 3.0 mmol) and potassium carbonate (621 mg, 4.5 mmol). The reaction mixture was stirred at reflux for 15 hours. The mixture was diluted with water (50 mL) and extracted with ethyl acetate (50 mL). The organic phase was separated, concentrated and the residue was purified by column chromatography (silica gel, petroleum ether/ethyl acetate=5:1) to give ethyl 1-((5-bromo-2-nitrophenylamino)methyl)cyclopropanecarboxylate as a light yellow solid (832 mg, 67%).

reactant | 4-bromo-2-fluoro-1-nitrobenzene | 3.6 mmol, 792 mg | BrC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | ethyl 1-(aminomethyl)cyclopropanecarboxylate | 3.0 mmol, 441 mg | NCC1(CC1)C(=O)OCC | C7H13NO2
reactant | potassium carbonate | 4.5 mmol, 621 mg | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | ethyl 1-((5-bromo-2-nitrophenylamino)methyl)cyclopropanecarboxylate | 832 mg, 67% | BrC=1C=CC(=C(C1)NCC1(CC1)C(=O)OCC)[N+](=O)[O-] | C13H15BrN2O4
